US06949542B2
(4-Fluoro-2-{3-[3-(2-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-fluoro-phenyl)-carbamic acid tert-butyl ester (Example J2) (170 mg, 0.75 mmol) and 3-[3-(2-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K5) (234 mg, 0.75 mmol) according to the general procedure M. Obtained as a light yellow solid (308 mg).

reactant | (2-amino-4-fluoro-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 170 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)N)=O | C11H15FN2O2
reactant | 3-[3-(2-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 234 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C(=NC=CC1)C)=O | C19H21NO3
product | (4-Fluoro-2-{3-[3-(2-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)NC(CC(=O)C1=CC(=CC=C1)C=1C(=NC=CC1)C)=O)=O | C26H26FN3O4
